US07332501B2
5-Bromo-1′-{[6-chloro-1-(2,3-difluorobenzoyl)-1H-indol-3-yl]carbonyl}-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one
Following the general procedure VII as describeed above, the acylation of 5-bromo-1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one with commercially available 2,3-difluorobenzoyl chloride gave the title compound.

reactant | 5-bromo-1′-[(6-chloro-1H-indol-3-yl)carbonyl]-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | BrC1=CC2=C(C=C1)C1(CCN(CC1)C(=O)C1=CNC3=CC(=CC=C13)Cl)OC2=O | C21H16BrClN2O3
reactant | 2,3-difluorobenzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
product | 5-Bromo-1′-{[6-chloro-1-(2,3-difluorobenzoyl)-1H-indol-3-yl]carbonyl}-3H-spiro[2-benzofuran-1,4′-piperidin]-3-one | BrC1=CC2=C(C=C1)C1(CCN(CC1)C(=O)C1=CN(C3=CC(=CC=C13)Cl)C(C1=C(C(=CC=C1)F)F)=O)OC2=O | C28H18BrClF2N2O4
